US07446121B2
To a 7-[5-[(3-fluoro-benzyl)-methyl-carbamoyl]-2-(4-fluoro-phenyl)-4-isopropyl-2H-pyrazol-3-yl]-3,5-dihydroxy-heptanoic acid sodium salt (270 mg, 0.49 mmol) in MeCN (50 ml) was slowly added TFA (1.0 mL, 1.23 mmol). The reaction mixture was stirred at 25° C. and monitored by HPLC. After 2 hrs, the reaction was completed. The reaction mixture was diluted with EtOAc (150 ml) and washed with H2O, saturated NaHCO3, and brine. The organic layer was dried over Na2SO4 and concentrated. The crude product was purified by silica gel column chromatography (70% EtOAc/Hex) to afford 1-(4-fluoro-phenyl)-5-[2-(4-hydroxy-6-oxo-tetrahydro-pyran-2-yl)-ethyl]-4-isopropyl-1H-pyrazole-3-carboxylic acid (3-fluoro-benzyl)-methyl-amide (210 mg, 84%): MS(APCI+) 512.2 m/z (M+H); H-NMR (CDCl3) [Mixture of rotamers at 25° C.] δ 7.40-7.21, 7.18-6.88, 4.72, 4.611, 4.58-4.48, 4.33-4.24, 2.98-2.93, 2.80-2.68, 2.63, 2.63 2.62, 2.61, 2.57, 2.56, 2.55, 2.17-2.14, 1.80-1.63, 1.61-1.58, 1.31-1.29.

reactant | 7-[5-[(3-fluoro-benzyl)-methyl-carbamoyl]-2-(4-fluoro-phenyl)-4-isopropyl-2H-pyrazol-3-yl]-3,5-dihydroxy-heptanoic acid sodium salt | 0.49 mmol, 270 mg | [Na+].FC=1C=C(CN(C(=O)C=2C(=C(N(N2)C2=CC=C(C=C2)F)CCC(CC(CC(=O)[O-])O)O)C(C)C)C)C=CC1
reactant | TFA | 1.23 mmol, 1.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeCN | 50 ml | CC#N | C2H3N
solvent | EtOAc | 150 ml | CCOC(=O)C | C4H8O2
product | 1-(4-fluoro-phenyl)-5-[2-(4-hydroxy-6-oxo-tetrahydro-pyran-2-yl)-ethyl]-4-isopropyl-1H-pyrazole-3-carboxylic acid (3-fluoro-benzyl)-methyl-amide | 210 mg, 84% | FC=1C=C(CN(C(=O)C2=NN(C(=C2C(C)C)CCC2OC(CC(C2)O)=O)C2=CC=C(C=C2)F)C)C=CC1 | C28H31F2N3O4
